US04725608
To a solution of N-[[(4-methoxycarbonylphenyl)-carbamoyl]amino]-1,2,3,6-tetrahydropyridine (1.21 g) in a mixture of methanol (30 ml) and chloroform (30 ml) was added. 1N sodium hydroxide (10 ml) and the mixture was stirred at ambient temperature for 18 hours. After evaporation of the solvent, the residue was extracted with chloroform (20 ml×3). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel (40 g) eluting with chloroform, to give N-[[(4-carboxyphenyl)-carbamoyl]amino]-1,2,3,6-tetrahydropyridine (0.65 g).

reactant | N-[[(4-methoxycarbonylphenyl)-carbamoyl]amino]-1,2,3,6-tetrahydropyridine | 1.21 g | COC(=O)C1=CC=C(C=C1)NC(=O)NN1CCC=CC1 | C14H17N3O3
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[[(4-carboxyphenyl)-carbamoyl]amino]-1,2,3,6-tetrahydropyridine | 0.65 g | C(=O)(O)C1=CC=C(C=C1)NC(=O)NN1CCC=CC1 | C13H15N3O3
